US08232287B2
tert-butyl 4-[(6-{5-[(2-hydroxyethyl)sulfonyl]indolin-1-yl}pyrimidin-4-yl)oxy]piperidine-1-carboxylate (exemplary compound No: 373)
Palladium hydroxide (100 mg) was added to a methanol (10 mL)/ethyl acetate (10 mL) mixed solution of the tert-butyl 4-{[6-(5-{[2-(benzyloxy)ethyl]sulfonyl}indolin-1-yl)pyrimidin-4-yl]oxy}piperidine-1-carboxylate (486 mg, 0.817 mmol) produced in Reference Example 44, and the mixture was stirred for 19.5 hours in a hydrogen atmosphere. The reaction solution was filtered through Celite (trade name), and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:2-4:1, V/V) to obtain the title compound as white foam (330 mg, yield: 80%).

reactant | methanol | 10 mL | CO | CH4O
reactant | tert-butyl 4-{[6-(5-{[2-(benzyloxy)ethyl]sulfonyl}indolin-1-yl)pyrimidin-4-yl]oxy}piperidine-1-carboxylate | 0.817 mmol, 486 mg | C(C1=CC=CC=C1)OCCS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=CC(=NC=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C31H38N4O6S
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[(6-{5-[(2-hydroxyethyl)sulfonyl]indolin-1-yl}pyrimidin-4-yl)oxy]piperidine-1-carboxylate | 330 mg, yield: 80% | OCCS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=CC(=NC=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N4O6S
